US07423159B2
To a mixture of 5-(4-fluorophenyl)-1-methyl-1H-pyrazole-4-carbaldehyde (4.50 g) and tetrahydrofuran (50 ml) was added dropwise methyl magnesium bromide (1 mol/L tetrahydrofuran solution, 25 ml) at 0° C. and the mixture was stirred at 0° C. for 30 min. The reaction mixture was poured into a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated and the residue was dissolved in acetone (60 ml). This solution was cooled to 0° C. and the Jones reagent (prepared by the method described in New Courses in Experiment Chemistry, Vol. 15, p. 151, published by Maruzen Company, Limited) was added dropwise until the red color of the reagent no longer disappeared. Isopropyl alcohol and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated. The residue was dissolved in N,N-dimethylformamide (50 ml). To this solution were added ethyl diethylphosphonoacetate (6.0 g) and sodium hydride (60% in oil, 1.0 g) and the mixture was stirred at 80° C. for 12 hrs. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, concentrated and the residue was purified by silica gel column chromatography to give a yellow oil from a fraction eluted with ethyl acetate-hexane (1:1, v/v). This yellow oil was dissolved in a mixture of acetic acid-37% hydrochloric acid (20-20 ml) and the mixture was stirred at 120° C. for 3 hrs. The reaction mixture was concentrated and poured into water. The precipitated crystals were collected by filtration, washed with water and dried to give (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]but-2-enoic acid. (4.60 g, 80%) as colorless crystals. Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 123-124° C.

reactant | 5-(4-fluorophenyl)-1-methyl-1H-pyrazole-4-carbaldehyde | 4.50 g | FC1=CC=C(C=C1)C1=C(C=NN1C)C=O | C11H9FN2O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | methyl magnesium bromide | 1 mol/L, 25 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | Isopropyl alcohol | C(C)(C)O | C3H8O
product | (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]but-2-enoic acid | FC1=CC=C(C=C1)C1=C(C=NN1C)/C(=C/C(=O)O)/C | C14H13FN2O2
